US06432993B1
5-{4-[6-(4-cyanophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A mixture of 4-cyanophenoxy-2-hydroxymethyl-1-methyl-1H-benzimidazole (279 mg), 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione (558 mg), azodicarbonylpiperidine (378 mg), tri-n-butylphosphine (303 mg) and toluene (20 ml) was stirred at ambient temperature for 15 hours. The reaction mixture was purified by chromatography on a silica gel column using n-hexane/ethyl acetate=1/1 as the eluant to give the title compound (706 mg).

reactant | 4-cyanophenoxy-2-hydroxymethyl-1-methyl-1H-benzimidazole | 279 mg | C(#N)C1=CC=C(OC2=CC=CC=3N(C(=NC32)CO)C)C=C1 | C16H13N3O2
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 558 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tri-n-butylphosphine | 303 mg | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-[6-(4-cyanophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 706 mg | C(#N)C1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(N(C(S4)=O)C(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)=O)C=C3)C)C2)C=C1 | C45H34N4O4S
